US08981085B2
N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)acetamide (0.190 g, 0.698 mmol), DIEA (0.365 mL, 2.10 mmol), and (S)-tert-butyl pyrrolidin-3-ylcarbamate (0.390 g, 2.10 mmol) were placed in n-BuOH (2 mL) and heated to 135° C. for 8 hours. The reaction was then cooled to room temperature and concentrated to dryness. The residue was purified by silica gel chromatography (500:18 DCM:MeOH) to give (S)-tert-butyl 1-(3-acetamido-5-bromo-1H-pyrrolo[2,3-b]pyridin-4-yl)pyrrolidin-3-ylcarbamate (0.240 g, 78% yield).

reactant | N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)acetamide | 0.698 mmol, 0.190 g | BrC=1C(=C2C(=NC1)NC=C2NC(C)=O)F | C9H7BrFN3O
reactant | DIEA | 2.10 mmol, 0.365 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-tert-butyl pyrrolidin-3-ylcarbamate | 2.10 mmol, 0.390 g | N1C[C@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
solvent | n-BuOH | 2 mL | CCCCO | C4H10O
product | (S)-tert-butyl 1-(3-acetamido-5-bromo-1H-pyrrolo[2,3-b]pyridin-4-yl)pyrrolidin-3-ylcarbamate | 0.240 g, 78% yield | C(C)(=O)NC1=CNC2=NC=C(C(=C21)N2C[C@H](CC2)NC(OC(C)(C)C)=O)Br | C18H24BrN5O3
